US07122665B2
To a solution of 2-(2-methoxy-ethyl)-6-morpholin-4-yl-9H-purine (0.46 g, 1.7 mmol) in 1 mL of DMF bromine (0.34 g, 1.2 eq) was added dropwise, and a resulted solution was heated at 110° C. for 30 minutes. Solvent was removed in vacuo, a residue was dissolved in dichloromethane, washed with water, brine and dried over MgSO4. Residue was purified by passing through silica gel (eluent dichloromethane:acetone:methanol 3:1:0.25) to afford 8-bromo-2-(2-methoxy-ethyl)-6-morpholin-4-yl-9H-purine (0.42 g, 70%).

reactant | 2-(2-methoxy-ethyl)-6-morpholin-4-yl-9H-purine | 1.7 mmol, 0.46 g | COCCC1=NC(=C2N=CNC2=N1)N1CCOCC1 | C12H17N5O2
reactant | DMF bromine | 1 mL, 0.34 g, 1.2 eq | CN(C)C=O.BrBr
product | 8-bromo-2-(2-methoxy-ethyl)-6-morpholin-4-yl-9H-purine | 0.42 g, 70% | BrC=1NC2=NC(=NC(=C2N1)N1CCOCC1)CCOC | C12H16BrN5O2
